US09034866B2
2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with 1-pyrrolidineethylamine similar to as described in Example 2 to afford 21.1 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(2-pyrrolidin-1-ylethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 470 (M)+. 1H NMR (400 MHz, DMSO) δ 11.20 (t, J=5.5 Hz, 1H), 8.61 (d, J=8.4 Hz, 1H), 8.42 (s, 1H), 7.90 (s, 1H), 7.03 (d, J=10.5 Hz, 1H), 5.47 (s, 1H), 5.02-4.84 (m, 2H), 4.64-4.43 (m, 2H), 3.65-3.49 (m, 2H), 3.16-2.81 (m, 6H), 1.95-1.79 (m, 4H), 1.49 (s, 6H).

reactant | 2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 1-pyrrolidineethylamine | N1(CCCC1)CCN | C6H14N2
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(2-pyrrolidin-1-ylethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 21.1 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCCN3CCCC3)C=C1C#CC(C)(C)O | C24H28FN5O4
